US08058313B2
bis((E)-2-(Thiophen-3-yl)vinylsulfonyl)methane
A solution of thiophene-3-carbaldehyde (2 mmol) and carboxymethane-sulfonylmethanesulfonyl-acetic acid (1 mmol) in acetic acid (10 mL) was subjected to General Procedure 1, to yield the title compound in 55% yield. m.p. 150-152° C.

reactant | thiophene-3-carbaldehyde | 2 mmol | S1C=C(C=C1)C=O | C5H4OS
reactant | carboxymethane-sulfonylmethanesulfonyl-acetic acid | 1 mmol | C(=O)(O)CS(=O)(=O)CS(=O)(=O)CC(=O)O | C5H8O8S2
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | bis((E)-2-(Thiophen-3-yl)vinylsulfonyl)methane | 55% yield | S1C=C(C=C1)/C=C/S(=O)(=O)CS(=O)(=O)\C=C\C1=CSC=C1 | C13H12O4S4
